US04284644
5-Carboxyspiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one (2 g.) and sodium hydrogen carbonate (1.25 g.) were suspended in acetone (50 ml.) and N,N-dimethylformamide (5 ml.) and, under stirring, dimethyl sulfate (2 ml.) was added dropwise to the mixture. The reaction mixture was refluxed under heating for 24 hours, and, after cooling, the solvent was evaporated off under reduced pressure. The residue was diluted with water and the solution was extracted with ethyl acetate. The extract was washed with aqueous solution of sodium hydrogen carbonate and dried. After removing the solvent by evaporation under reduced pressure, the residue was recrystallized from methanol to give colorless needles of 5-methoxycarbonylspiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one (1.25 g.).

reactant | 5-Carboxyspiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one | 2 g | C(=O)(O)C1=CC2=C(OC3(CC3)C2=O)C=C1 | C11H8O4
reactant | sodium hydrogen carbonate | 1.25 g | C(O)([O-])=O.[Na+]
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | dimethyl sulfate | 2 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 5-methoxycarbonylspiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one | 1.25 g | COC(=O)C1=CC2=C(OC3(CC3)C2=O)C=C1 | C12H10O4
